* C:\Users\emanu\Desktop\DCE-GRUPO10\REALIMENTADOR\LTSpice\Test.asc
VCC VCC 0 30
VSS 0 VEE 30
V1 5V 0 5
V§SENOIDAL Vsin 0 SINE(0 1.1 20k)
V2 0 -5V 5
V5 15V 0 15
V6 0 -15V 15
.tran 0 400u 0 uic
.include UCC20520.301
* Fuentes
* Bibliotecas
.include PHB27NQ10T.lib
.include BS170.301
.include LM311.301
.include TL082.301
* Directivas SPICE
* Entrada
.options numdgt = 15
* Doble precision
.options plotwinsize = 0
* Deshabilitar la compresion
.backanno
.end
